US08044196B2
Preparation of 2-(2-aminoanilino)-5-methylthiophene-3-carbonitrile
2-(2-Nitroanilino)-5-methylthiophene-3-carbonitrile (100 g) is taken in ethyl acetate (1000 ml). The reaction mixture is then hydrogenated by 5% Pd/C (15 g) at 50-55° C. at 10-12 Kg pressure. The reaction mixture is filtered, and ethyl acetate is distilled off to get the title compound.

reactant | 2-(2-Nitroanilino)-5-methylthiophene-3-carbonitrile | 100 g | [N+](=O)([O-])C1=C(NC=2SC(=CC2C#N)C)C=CC=C1 | C12H9N3O2S
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 15 g | [Pd] | Pd
product | 2-(2-aminoanilino)-5-methylthiophene-3-carbonitrile | NC1=C(NC=2SC(=CC2C#N)C)C=CC=C1 | C12H11N3S
